US07855290B2
3-(Azetidin-1-yl)-1-benzhydrylazetidine
To a solution of 1-benzhydrylazetidin-3-one (750 mg) in dichloromethane (12 ml) was added azetidine hydrochloride (326 mg), followed by stirring at room temperature. Sodium triacetoxy borohydride (1.01 g) was added thereto, followed by stirring at room temperature for 25 hr. To the reaction mixture were added sodium carbonate (until bubbling stopped), water (50 ml) and ethyl acetate (100 ml). The organic layer was separated. This was washed with brine, and dried over anhydrous sodium sulfate. The organic layer after drying was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:1, 1:2, then ethyl acetate) to provide the titled compound as a pale yellow solid (643 mg, 73.1%).

reactant | 1-benzhydrylazetidin-3-one | 750 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
reactant | azetidine hydrochloride | 326 mg | Cl.N1CCC1
reactant | Sodium triacetoxy borohydride | 1.01 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 3-(Azetidin-1-yl)-1-benzhydrylazetidine | 643 mg, 73.1% | N1(CCC1)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H22N2
